US07956064B2
5-bromopyrimidine-4-carboxylic acid (prepared according to the procedure described in U.S. Pat. No. 4,110,450) (1.0 eq, 6.14 g, 30.2 mmol) was suspended in CH2Cl2 (100 ml). Oxalylchloride (1.1 eq, 2.9 ml, 33.0 mmol) was added followed by 2 drops of DMF. The mixture was stirred at room temperature overnight and the volatiles were removed in vacuo. The residue was taken in MeOH (50 ml) and heated. After evaporation of MeOH in vacuo the compound was dissolved in CH2Cl2 and poured on a prepacked silica gel column. The material was eluted using 20% Ethyl acetate in hexanes. Evaporation of the solvent provided methyl-5-bromopyrimidine-4-carboxylate as a light orange crystalline solid (2.54 g, 39% yield). LCMS (ES): 95% pure, m/z 217 [M]+; 219 [M+2]+; 1H NMR (CDCl3, 400 MHz) δ 4.04 (s, 3H), 9.02 (s, 1H), 9.21 (s, 1H) ppm.

reactant | 5-bromopyrimidine-4-carboxylic acid | BrC=1C(=NC=NC1)C(=O)O | C5H3BrN2O2
reactant | Oxalylchloride | 33.0 mmol, 2.9 ml, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | methyl-5-bromopyrimidine-4-carboxylate | 2.54 g, 39% yield | COC(=O)C1=NC=NC=C1Br | C6H5BrN2O2
